US06531502B1
A mixture of 3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (3.4 g), 2.7 g of 5-bromo-2-oxindole and 1.4 g of pyrrolidine in 25 mL of ethanol was refluxed for 4 hours. Upon slow addition of acetic acid (8 mL), a precipitate formed. The mixture was refluxed for 5 minutes and cooled to ambient temperature. The precipitate was collected by vacuum filtration and washed with 20 mL of ethanol. The solids were slurry-washed by refluxing in 30 mL of ethanol, cooled, collected by vacuum filtration, washed with 30 mL of ethanol and dried under vacuum to give 5.2 g (98% yield) of 3-[2-(5-bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid as a red-orange solid, mp 286-289° C.

reactant | 3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 3.4 g | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
reactant | 5-bromo-2-oxindole | 2.7 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | pyrrolidine | 1.4 g | N1CCCC1 | C4H9N
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-[2-(5-bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid | 5.2 g, 98% yield | BrC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C20H19BrN2O3
